US06340778B1
This example describes the process of the invention for the co-aldol condensation of n-pentanal and 2-methylbutanal (2-MBA) to give an isodecenal consisting of the isomers 2-propyl-4-methylhexenal (1+2) and 2-propylheptenal (1+1). 400 kg/h of catalyst were passed through the reactor (as described in Example 3) at a temperature of 110° C. at the autogenous pressure of the reactants.

reactant | n-pentanal | C(CCCC)=O | C5H10O
reactant | 2-methylbutanal | CC(C=O)CC | C5H10O
product | isodecenal | C(C=CCCCCC(C)C)=O | C10H18O
